* Class C PA

* This is a viable class C PA for producing 1W.  It's not simulated
* with an actual MOSFET, but it has the gate capacitance and on
* resistance simulated for a RD02LUS2 device.  Both regular and low
* outgassing inductors are spec-ed, along with all critical
* capacitors.

.include Filters.cir

* Switch acting as the MOSFET.  Add output capacitance and a way
* to measure source current.
.model xsw sw RON=1.32
Csd a0 em 35p
S1 a0 em in 0 xsw OFF
Vm1 em em2 dc 0
Rx em2 0 0

* Power input network.  A big inductor, some capacitors, and a small
* inductor.
V5v v5in 0 DC 5
* Resistance is DC resistance, not from Q.  Capacitance isn't meaningful.
* Coilcraft AE563PKA301MSZ
*L5v v5in m3 300n
*RL5v m3 v5 0.003
* Coilcraft 0805LS-471X_RC
L5v v5in m3 470n
RL5v m3 v5 0.030
Cp2 v5 0 100p
Cp3 v5 0 1n

* This is the small inductor.  It's small enough that we can make
* it with a PCB trace.
* 4.55mm 0.225mm trace 0.612mm over ground.
* Calculated with KiCad transmission line calculator.  Calculated
* using er=4.3, got Zo=103 angle=0.069.
* Convert that to L with:
*   L = (Zo * angle) / (2 * pi * f)
*     = (103 * 0.069) / (2 * pi * 435e6)
*     = 2.6-09
Lp v5 m2 2.6n
RLp m2 a0 0.003
CLp v5 a0 0.25e-12

* Used to measure current going into the PI filter.
Vm2 a0 a1 dc 0

* Output PI filter
* Freq = 435000000.000000  bw = 120000000.000000  Rin = 10.000000  Rout = 50.000000
* Q = 3.625000  Xc1 = 13.793103  Xc1 = 7.396003  Xl = 17.598521
* Murata GCM1555C1H510FA16D
C2 a1 0 51p
* Coilcraft 0603DC-6N2X_RW 
L1 a1 m1 6.2n
RL1 m1 a2 0.13
CL1 a1 a2 0.048p
* Coilcraft AR312RAG6N0_PZ 
*L1 a1 m1 6.0n
*RL1 m1 a2 0.13
*CL1 a1 a2 0.048p
* Murata GCM1555C1H270FA16D
C1 a2 0 27p

* Extra filtration, probably not required.
.if (0)
X2 a2 a3 PiFiltLP3_440MHz
.else
Rt1 a2 a3 0
.endif

* Drive the switch input.  The -.6 sets the bias here, the switch
* turns on if the input is >0.
Vin in 0 DC 0 AC 1 sin(-.6 1 435MEG 0 0 0)

* Output.  Need to have a capacitor to block DC.
Cout a3 out 100p
Rout out 0 50

.control
* Wide range plot
tran 0.01ns 1010ns 100ns
plot i(v5v)
plot v(out)

* Do a small detailed plot
reset
tran 0.01ns 410ns 400ns
plot v(in) v(a1) v(out) i(Vm1) i(Vm2) i(v5v)
.endc